US08604055B2
To 2-oxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile (6.0 g, 34.4 mmol) was added phosphorus oxychloride (20 mL), this mixture was stirred at RT for 1 h,and then refluxed for 12 h. The excess phosphorous oxychloride was distilled off, and the residue was poured into ice-water. The aqueous solution was basified with saturated sodium bicarbonate solution, and the precipitate that formed was filtered off. The precipitate was purified by column chromatography eluting with 2% ethyl acetate and petroleum ether to afford 2-chloro-5,6,7,8-tetrahydro-quinoline-3-carbonitrile (5.00 g, yield: 75%).

reactant | 2-oxo-1,2,5,6,7,8-hexahydroquinoline-3-carbonitrile | 34.4 mmol, 6.0 g | O=C1NC=2CCCCC2C=C1C#N | C10H10N2O
reactant | phosphorus oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5,6,7,8-tetrahydro-quinoline-3-carbonitrile | 5.00 g, yield: 75% | ClC1=NC=2CCCCC2C=C1C#N | C10H9ClN2
